US09168245B2
N-(5-ethoxymethyl-2-methyl-phenyl)-acetamide VII-e was prepared as described for intermediate II-i using 5-ethoxymethyl-2-methyl-phenylamine I-e (5 g, 30.26 mmol), dry triethylamine (12.23 mL), DCM (60 mL) and AcCl (4.32 mL) to give the desired intermediate VII-e as a white solid (5.39 g, 86%). 1H NMR (300 MHz, CDCl3) δ 7.69 (s, 1H), 7.15 (d, J=7.7 Hz, 1H), 7.07 (d, J=8.2 Hz, 1H), 4.46 (s, 2H), 3.53 (q, J=7.0 Hz, 2H), 2.23 (s, 3H), 2.18 (s, 3H), 1.23 (t, J=7.0 Hz, 3H).

reactant | 5-ethoxymethyl-2-methyl-phenylamine | 30.26 mmol, 5 g | C(C)OCC=1C=CC(=C(C1)N)C | C10H15NO
reactant | triethylamine | 12.23 mL | C(C)N(CC)CC | C6H15N
reactant | AcCl | 4.32 mL | C(=O)(C)Cl | C2H3ClO
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(5-ethoxymethyl-2-methyl-phenyl)-acetamide | C(C)OCC=1C=CC(=C(C1)NC(C)=O)C | C12H17NO2
